US07153814B2
53 mg of 2-(N-cyclopropyl-N-methylamino)-4,5-difluorophenol, 44 mg of potassium carbonate, 6.4 mg of potassium iodide and 0.03 ml of chloroacetone are mixed in 1 ml of acetone and are heated at reflux for 20 h. The mixture is then evaporated and the residue is taken up in diethyl ether and washed with water. The organic phase is dried with magnesium sulfate and evaporated to dryness, and the residue is purified by flash chromatography. 1-[2-(N-Cyclopropyl-N-methylamino)-4,5-difluorophenoxy]propan-2-one is thus obtained as a yellow oil.

reactant | 2-(N-cyclopropyl-N-methylamino)-4,5-difluorophenol | 53 mg | C1(CC1)N(C)C1=C(C=C(C(=C1)F)F)O | C10H11F2NO
reactant | potassium carbonate | 44 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 6.4 mg | [I-].[K+]
reactant | chloroacetone | 0.03 ml | ClCC(C)=O | C3H5ClO
solvent | acetone | 1 ml | CC(=O)C | C3H6O
product | 1-[2-(N-Cyclopropyl-N-methylamino)-4,5-difluorophenoxy]propan-2-one | C1(CC1)N(C)C1=C(OCC(C)=O)C=C(C(=C1)F)F | C13H15F2NO2
